US04011225
3,8-dimethyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide
3,8-dimethyl-8-cyano-5,6,7,8-tetrahydroquinoline is treated with H2S in pyridine in the presence of triethylamine following the general procedure of Example 5 and the title compound is isolated and recrystallised from benzene as the quarter hydrate, colourless meedles m.p. 164° C. This was converted to the hydrochloride by treatment in isopropanol with a solution of dry HCl gas in ether. The title compound hydrochloride crystallised as colourless needles m.p. 277° C.

reactant | 3,8-dimethyl-8-cyano-5,6,7,8-tetrahydroquinoline | CC=1C=NC=2C(CCCC2C1)(C#N)C | C12H14N2
reactant | H2S | S | H2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,8-dimethyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | CC=1C=NC=2C(CCCC2C1)(C(N)=S)C | C12H16N2S
